US08017809B2
Bis(4,4′-(phenyl-N,N-dimethylaminoethoxyboryl)benzyl) ether
The entitled compound (60 mg) was obtained by allowing 95 mg of bis(4,4′-(phenylhydroxyboryl)benzyl) ether and 55 mg of N,N-dimethylethanolamine to act in 0.7 mL of ethanol at room temperature.

reactant | bis(4,4′-(phenylhydroxyboryl)benzyl) ether | 95 mg | C1(=CC=CC=C1)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC=CC=C1 | C26H24B2O3
reactant | N,N-dimethylethanolamine | 55 mg | CN(CCO)C | C4H11NO
solvent | ethanol | 0.7 mL | C(C)O | C2H6O
product | Bis(4,4′-(phenyl-N,N-dimethylaminoethoxyboryl)benzyl) ether | C1(=CC=CC=C1)B(OCCN(C)C)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCCN(C)C)C1=CC=CC=C1 | C34H42B2N2O3
